US04377580
A mixture of 2,2-dimethyl-5-[(4-quinazolinyl)amino]methylene-1,3-dioxane-4,6-dione (3.5 g) in diphenylether (15 ml) was stirred for 10 minutes at 250°-260° C. and then cooled to ambient temperature. To the reaction mixture was added hexane and allowed to to stand at ambient temperature to give crystals, which were separated by filtration and washed with hexane to give crude crystals (3 g). The crude crystals were subjected to a column chromatography using silica gel (developing solvent: a mixture of ethyl acetate and hexane (3:7)). The eluate was concentrated under reduced pressure to give crystals, which were recrystallized from chloroform and hexane to give 4H-pyrimido[1,2-c]quinazoline-4-one (1.6 g).

reactant | 2,2-dimethyl-5-[(4-quinazolinyl)amino]methylene-1,3-dioxane-4,6-dione | 3.5 g | CC1(OC(C(C(O1)=O)=CNC1=NC=NC2=CC=CC=C12)=O)C | C15H13N3O4
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diphenylether | 15 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 4H-pyrimido[1,2-c]quinazoline-4-one | 1.6 g | N=1C=CC(N2C=NC=3C=CC=CC3C21)=O | C11H7N3O
